US07226951B2
4-Iodo-benzyl alcohol
A stirred, cooled (−78° C.) solution of ethyl-4-iodo-benzoate (available from Lancaster, 12.9 g, 45 mmol) in anhydrous dichloromethane (100 mL) under argon was treated with a 1M solution of di-isobutyl aluminum hydride in dichloromethane (100 mL, 100 mmol). The reaction mixture was allowed to warm to 0° C. in 1.5 h, quenched with saturated aqueous ammonium chloride solution and the resulting emulsion was filtered over a bed of celite. The phases in the filtrate were-separated and the aqueous phase was extracted with dichloromethane (×1). The combined organic phase was dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to afford the title product as a white solid (9 g, 85%).

reactant | ethyl-4-iodo-benzoate | 45 mmol, 12.9 g | C(C)OC(C1=CC=C(C=C1)I)=O | C9H9IO2
reactant | di-isobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mmol, 100 mL | ClCCl | CH2Cl2
product | 4-Iodo-benzyl alcohol | 9 g, 85% | IC1=CC=C(CO)C=C1 | C7H7IO
